US06346539B1
A mixture of piperinic acid (350 mg, 0.0016 mole, 1 eq) and triethylamine (0.4 ml, 0.0032 mole, 2 eq) in dichloromethane (50 ml) was stirred for 15 min at 0° C. To this mixture methanesulfonyl chloride (0.18 ml, 0.0024 mole, 1.5 eq) was added and stirred for further 30 min at 0° C. Isobutylamine (0.23 ml, 0.0024 mole, 1.5 eq) was added to the mixture and stirred for 1 h at 0° C. and 2 h at room temperature. Dichloromethane (50 ml) was added to the mixture which was then washed with 5% HCl (3×100 ml), saturated aqueous NaHCO3 (3×100 ml) and water (3×100 ml). The organic fraction was dried over anhydrous sodium sulphate, filtered and rotary evaporated to yield a yellowish solid residue. Recrystallisation from methanol yielded colourless needles of piperlonguminine (120 mg, 32% yield)2. The reaction is presumed to proceed through a mesylate ester intermediate.

reactant | piperinic acid | 0.0016 mole, 350 mg, 1 eq | C1OC2=C(O1)C=C(C=C2)/C=C/C=C/C(=O)O | C12H10O4
reactant | triethylamine | 0.0032 mole, 0.4 ml, 2 eq | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.0024 mole, 0.18 ml, 1.5 eq | CS(=O)(=O)Cl | CH3ClO2S
reactant | Isobutylamine | 0.0024 mole, 0.23 ml, 1.5 eq | C(C(C)C)N | C4H11N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | Dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | piperlonguminine | 120 mg, 32% yield | CC(C)CNC(=O)/C=C/C=C/C=1C=CC2=C(C1)OCO2 | C16H19NO3
